US07947851B2
Step a) Formation of methyl 5-{butyl[4-(phenylethynyl)benzyl]amino}-2-fluorobenzoate
A solution of methyl 5-amino-2-fluorobenzoate (500 mg, 2.96 mmol), 4-(phenylethynyl)benzaldehyde (6 10 mg, 2.96 mmol) and acetic acid (0.25 mL, 4.40 mmol) in toluene (20 mL) was heated under reflux for 3 h with azeotropic removal of water. Then the solvent was removed by distillation at atmospheric pressure and replaced by anhydrous DCE (20 mL). Butanal (Fluka, 0.66 mL, 7.39 mmol), sodium triacetoxyborohydride (1880 mg, 8.87 mmol) and acetic acid (0.25 mL, 4.40 mmol) were added and the resulting mixture was heated at 70° C. After 45 min, an additional amount of sodium triacetoxyborohydride (630 mg, 2.96 mmol) was added. After 45 min, the reaction mixture was diluted with water (40 mL) and extracted with DCM (3×20 mL). The combined organic layers were dried over MgSO4 and the solvents were removed under reduced pressure. Purification by flash chromatography on silicagel (cHex/EtOAc): gave. 924 mg (75%) of the title compound as a colorless oil. HPLC, Rt: 5.6 min (purity: 99.8%). LC/MS, M+(ESI): 416.1. 1H NMR (CDCl3) δ: 7.51-7.44 (m, 4H), 7.32 (m, 3H), 7.17 (m, 3H), 6.92 (dd, J=9.8, 9.7 Hz, 1H), 6.73 (m, 1H), 4.49 (s, 2H), 3.88 (s, 3H), 3.36 (t, J=7.2 Hz, 2H), 1.60 (m, 2H), 1.34 (m, 2H), 0.93 (t, J=7.2 Hz, 3H).

reactant | methyl 5-amino-2-fluorobenzoate | 2.96 mmol, 500 mg | NC=1C=CC(=C(C(=O)OC)C1)F | C8H8FNO2
reactant | 4-(phenylethynyl)benzaldehyde | 2.96 mmol, 10 mg | C1(=CC=CC=C1)C#CC1=CC=C(C=O)C=C1 | C15H10O
reactant | acetic acid | 4.40 mmol, 0.25 mL | C(C)(=O)O | C2H4O2
reactant | Butanal | 7.39 mmol, 0.66 mL | C(CCC)=O | C4H8O
reactant | sodium triacetoxyborohydride | 8.87 mmol, 1880 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 4.40 mmol, 0.25 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.96 mmol, 630 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 40 mL | O | H2O
product | methyl 5-{butyl[4-(phenylethynyl)benzyl]amino}-2-fluorobenzoate | 924 mg, 75% | C(CCC)N(C=1C=CC(=C(C(=O)OC)C1)F)CC1=CC=C(C=C1)C#CC1=CC=CC=C1 | C27H26FNO2
